US03931239
A solution of 4,5-dimethyl-6-oxo-7,8-dihydro-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid (0.01 mole) in acetic acid (60 ml.) is treated with 48% hydrobromic acid (1 drop) then with bromine (0.01 mole) in acetic acid (10 ml.) during a ten minute period. The solution is poured into ice water (300 ml.) containing sodium bisulfite (1 g.) to afford 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6-H-indeno[5,4-b]furan-2-carboxylic acid.

reactant | 4,5-dimethyl-6-oxo-7,8-dihydro-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.01 mole | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)C(C)C)=O)C | C17H18O4
reactant | bromine | 0.01 mole | BrBr | Br2
reactant | sodium bisulfite | 1 g | S([O-])(O)=O.[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | hydrobromic acid | 1 drop | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6-H-indeno[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)(C(C)C)Br)=O)C | C17H17BrO4
